US07138425B2
c) 2-(3-Nitro-4-methoxyphenyl)-5-bromobenzoxazole
A suspension of N-(2-hydroxy-5-bromophenyl)-3-nitro-4-methoxybenzamide (5.24 g, 14.2 mmol) and toluenesulfonic acid monohydrate (5.36 g, 31.2 mmol) in toluene (100 ml) was heated to reflux overnight. The cooled reaction mixture was washed with saturated sodium hydrogen carbonate solution (care foaming) and the organic layer separated. The aqueous layer was extracted with ethyl acetate (2×50 ml) and the combined organic layers dried over sodium sulfate and the solvent removed under reduced pressure. The residue was triturated with ether, filtered and dried under vacuum to give the subtitle compound as a pale pink solid (4.51 g, 93%). 1H NMR (DMSO) δ 8.61(d, 1H), 8.42(dd, 1H), 8.05(d, 1H), 7.79(d, 1H), 7.61(m, 2H), 4.05(s, 3H). MS m/z 349.0 (M+H)+.

reactant | N-(2-hydroxy-5-bromophenyl)-3-nitro-4-methoxybenzamide | 14.2 mmol, 5.24 g | OC1=C(C=C(C=C1)Br)NC(C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O | C14H11BrN2O5
reactant | toluenesulfonic acid monohydrate | 31.2 mmol, 5.36 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Nitro-4-methoxyphenyl)-5-bromobenzoxazole | 4.51 g, 93% | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
